US09260413B2
To a solution of 10 g (55.9 mmol) 2,4-dichloro-5-methoxy-pyrimidine in 200 mL MeOH was added 7.7 g (55.9 mmol) K2CO3. The reaction mixture was stirred at room temperature for 24 h, then the volatiles were removed in vacuo. The residue was diluted with EtOAc (200 mL) and water (100 mL). The organic layer was separated, dried (Na2SO4), and evaporated affording 9.0 g (92%) 2-chloro-4,5-dimethoxy-pyrimidine as a fluffy white solid which was used in subsequent steps without further purification. LCMS [M+H]+=175.0.

reactant | 2,4-dichloro-5-methoxy-pyrimidine | 55.9 mmol, 10 g | ClC1=NC=C(C(=N1)Cl)OC | C5H4Cl2N2O
reactant | K2CO3 | 55.9 mmol, 7.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 200 mL | CO | CH4O
product | 2-chloro-4,5-dimethoxy-pyrimidine | 9.0 g, 92% | ClC1=NC=C(C(=N1)OC)OC | C6H7ClN2O2
